US09023847B2
30. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid 3-chloro-benzylamide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 3-chlorobenzylamine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 383 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.53 (1H, br. s.) 10.27 (1H, s) 8.72 (1H, t, J=5.95 Hz) 8.03 (1H, d, J=5.47 Hz) 7.82 (1H, d, J=5.47 Hz) 7.50 (1H, d, J=5.47 Hz) 7.21-7.41 (5H, m) 6.84 (1H, d, J=5.47 Hz) 6.41 (1H, dd, J=3.51, 1.95 Hz) 4.46 (2H, d, J=5.86 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 3-chlorobenzylamine | ClC=1C=C(CN)C=CC1 | C7H8ClN
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid 3-chloro-benzylamide | ClC=1C=C(CNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=CC1 | C19H15ClN4OS
